US05523314
5-[(4-quinolinyl)methylene]-2-thioxo-4-thiazolidinone
Rhodanine (2.2 g; 16.5 mmol), 1.3 ml of concentrated ammonium hydroxide and 1 g of ammonium chloride in 20 ml of ethanol were heated on a steam bath for 15 minutes. 4-Quinoline carboxaldehyde (2.6 g; 16.5 mmol) was added and the resulting mixture was heated on the steam bath for another hour. Upon cooling to 5° C. a precipitate formed. This precipitate was recovered by filtration and then washed with water to provide 4 g of title compound, m.p. 325°-328° C.

reactant | Rhodanine | 16.5 mmol, 2.2 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | ammonium hydroxide | 1.3 ml | [OH-].[NH4+]
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | 4-Quinoline carboxaldehyde | 16.5 mmol, 2.6 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[(4-quinolinyl)methylene]-2-thioxo-4-thiazolidinone | 4 g | N1=CC=C(C2=CC=CC=C12)C=C1C(NC(S1)=S)=O | C13H8N2OS2
